2169-04-27 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2169-4-26**] 09:20 AM
 EKG - At [**2169-4-26**] 01:00 PM
 BLOOD CULTURED - At [**2169-4-26**] 01:20 PM
 BLOOD CULTURED - At [**2169-4-26**] 01:25 PM
 NUCLEAR MEDICINE - At [**2169-4-26**] 11:39 PM
   HIDA scan
   - transplant surgery eval and recommending percutaneous cholecystostomy
   tube placement by IR.  IR not sure that this is cholecystitis and
   recommending HIDA scan first.  Ordered for HIDA, will need to correct
   coagulopathy in the morning with FFP/platelets so patient can go to IR
   likely will get paracentesis and perc ccy at that time.
   - Patient had HIDA overnight that was reportedly normal (called by
   radiology); he will no longer be traveling for perc cholecystostomy.
   - No official read on CT of abdomen yet, but now new ? of right sided
   colitis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-4-26**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-4-27**] 02:16 AM
   Metronidazole - [**2169-4-27**] 02:18 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-4-27**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Unchanged.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged.
   Flowsheet Data as of  [**2169-4-27**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 125 (120 - 138) bpm
   BP: 128/71(84) {89/49(58) - 133/86(95)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
    Bladder pressure: 16 (12 - 26) mmHg
   Total In:
                                                                  5,630 mL
                                                                  1,020 mL
   PO:
                                                                  1,680 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,550 mL
                                                                    900 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  5,320 mL
                                                                    410 mL
   Urine:
                                                                  1,170 mL
                                                                    410 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
                                                                  4,000 mL
   Balance:
                                                                    310 mL
                                                                    610 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) No acute distress, No(t) Overweight / Obese,
   Thin, uncomfortable, chills
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: )
   Abdominal: Distended, Tender: diffusely, greatest RUQ
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   36 K/uL
   9.1 g/dL
   76 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.2 mEq/L
   16 mg/dL
   98 mEq/L
   128 mEq/L
   27.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2169-4-26**]  05:16 AM
                             [**2169-4-26**]  01:20 PM
                             [**2169-4-26**]  03:04 PM
                             [**2169-4-27**]  02:44 AM
   WBC
   24.8
   10.4
   9.1
   9.3
   Hct
   39.0
   27.8
   26.3
   27.5
   Plt
   59
   39
   43
   36
   Cr
   1.0
   1.0
   0.9
   Glucose
   84
   94
   76
   Other labs: PT / PTT / INR:40.7/64.2/4.3, ALT / AST:41/99, Alk Phos / T
   Bili:116/4.9, Differential-Neuts:86.0 %, Band:8.0 %, Lymph:1.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.8 mmol/L, Albumin:2.9 g/dL,
   LDH:200 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Assessment and Plan: 49 y/o M HIV, HCV cirrhosis c/b ascites and
   crohn's disease, p/w abdominal pain, tachycardia with negative
   paracentesis.
   .
   # Tachycardia: Likely multifactorial.  Would treat pain appropriately.
   Patient is likely intravascularly volume depleted and total body volume
   overloaded and anticipate HR may improve with IVF's & pain control.
   Given tachycardia must consider sepsis, but overall clinical picture
   more consistent with other more benign etiologies for his presentation.
   - patient received 100mg albumin
   - treat pain
   - f/u micro data (GPC in clusters/chains)
   - trend lactate
   - IVF @ 125ml/hr with boluses as needed based upon clinical exam
   - restart home metoprolol
   .
   # Abdominal Pain: Likely related to worsening ascites.  Potentially
   exacerbated GB wall edema.  Unlikely SBP, but gram stain pending.
   Given tachycardia, immunosuppression, elevated lactate consider empiric
   antibiotics for SBP. Transplant surgery consult initially with
   significant concern for cholecystitis.  HIDA scan overnight reportedly
   normal.  Re-eval of CT scan with concern for right sided colitis.
   - Continue Vanco/Zosyn/Flagyl
   - Large Volume paracentesis performed yesterday
   - treat empirically until culture negative
   - If culture positive, albumin 1.5g/kg today, and 1g/kg on day 3
   - serial exams
   - f/u final reads of CT Abd/Pelvis and  HIDA
   - ? transfer to transplant surgery service.
   .
   # Cirrhosis/HCV: Some worsening of LFT's since last evaluation.
   - daily MELD (MELD [**2169-4-27**] 29)
   - f/u liver consult with ? endoscopy
   - on transplant list
   .
   # Mild hypoxemia/cough/dyspnea: [**Month (only) 51**] be due to increased abdominal
   distenion.  Would consider infectious etiologies in this HIV + patient
   with recently low CD4 counts.
   - CXR
   - Paracentesis on [**4-26**] with 4L fluid removed; follow fluid cultures
   - Check LDH
   - follow clinically, now 95% on RA with no respiratory distress
   .
   # HIV: Last CD4> 200
   - continue HAART
   .
   # Mild hyponatremia. Stable since yesterday.
   - Receiving NS, will get sodium phos.
   - Trend serum sodium
   .
   # Pain Control:
   - oxycodone, morphine
   .
   # Thrombocytopenia: Chronic and stable.
   - Trend
   .
   # Nausea: Zofran prn
   # Hypertension: home medications
   # Depression: home medications
   .
   # FEN: IVF, replete electrolytes, advance diet as tolerated (start with
   full liquids)
   # Prophylaxis: Pneumoboots
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Pt ready for call-out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-4-26**] 05:00 AM
   20 Gauge - [**2169-4-26**] 08:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-04-27 08:57:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   49 yo man with HCV cirrhosis, HIV, admitted with bacteremia, sepsis,
   abdominal pain.  Had HIDA scan yesterday night that was negative.
   Abdominal pain better since yesterday, but still present.
   24 Hour Events:
 PARACENTESIS - At [**2169-4-26**] 09:20 AM
 EKG - At [**2169-4-26**] 01:00 PM
 BLOOD CULTURED - At [**2169-4-26**] 01:20 PM
 BLOOD CULTURED - At [**2169-4-26**] 01:25 PM
 NUCLEAR MEDICINE - At [**2169-4-26**] 11:39 PM
   HIDA scan
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-4-27**] 02:16 AM
   Metronidazole - [**2169-4-27**] 02:18 AM
   Vancomycin - [**2169-4-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-4-27**] 08:00 AM
   Other medications:
   HAART
   reglan
   lactulose
   protonix
   lopressor
   morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis
   Heme / Lymph: Anemia, Coagulopathy
   Pain: [**5-18**] Moderate
   Pain location: abdomen
   Flowsheet Data as of  [**2169-4-27**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 90 (90 - 138) bpm
   BP: 98/64(72) {83/49(58) - 133/86(95)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.4 kg (admission): 72.8 kg
   Bladder pressure: 22 (12 - 26) mmHg
   Total In:
                                                                  5,630 mL
                                                                  1,622 mL
   PO:
                                                                  1,680 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,550 mL
                                                                  1,382 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  5,320 mL
                                                                    460 mL
   Urine:
                                                                  1,170 mL
                                                                    460 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
                                                                  4,000 mL
   Balance:
                                                                    310 mL
                                                                  1,162 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: moderate distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : bibasilar)
   Abdominal: Soft, Distended, Tender: diffusely mild tenderness
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   36 K/uL
   76 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.2 mEq/L
   16 mg/dL
   98 mEq/L
   128 mEq/L
   27.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2169-4-26**]  05:16 AM
                             [**2169-4-26**]  01:20 PM
                             [**2169-4-26**]  03:04 PM
                             [**2169-4-27**]  02:44 AM
   WBC
   24.8
   10.4
   9.1
   9.3
   Hct
   39.0
   27.8
   26.3
   27.5
   Plt
   59
   39
   43
   36
   Cr
   1.0
   1.0
   0.9
   Glucose
   84
   94
   76
   Other labs: PT / PTT / INR:40.7/64.2/4.3, ALT / AST:41/99, Alk Phos / T
   Bili:116/4.9, Differential-Neuts:86.0 %, Band:8.0 %, Lymph:1.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.8 mmol/L, Albumin:2.9 g/dL,
   LDH:200 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Abdominal pain:  partially due to ascites, but has been chronic without
   clear cause.  HIDA scan negative
   bacteremia:  f/u on speciation, unclear source of bacteremia.
   can advance diet
   HIV:  continue HAART
   cirrhosis:  follow-up  with hepatology about any further plans.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-4-26**] 05:00 AM
   20 Gauge - [**2169-4-26**] 08:30 AM
   Prophylaxis:
   DVT:   Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2169-04-28 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2169-4-27**] 04:15 PM
   2 sets
 URINE CULTURE - At [**2169-4-27**] 04:15 PM
 STOOL CULTURE - At [**2169-4-27**] 08:50 PM
   - ID now consulting
1. Would switch antibiotics to ceftriaxone 2gm IV daily for GBSperitonitis and b
acteremia
2. F/u surveillance blood cultures
3. Please send two additional stool samples for C. diff testing
4. Please send stool for bacterial culture, Yersinia, O&P,cryptosporidium/Giardi
a DFA, as well as cyclospora andmicrosporidium.
5. Consider repeat colonoscopy with intubation of terminal ileumfor direct visua
lization and repeat biopsies for pathology and viral culture to r/o CMV.
   - Transplant [**Doctor First Name 213**]: rec colonoscopy, reverse INR
   - Liver: no colonoscopy for now, vitamin K
   - Peritoneal fluid & blood cx growing group B strep.
   - TTE to r/o endocarditis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-4-27**] 08:00 AM
   Metronidazole - [**2169-4-28**] 12:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-4-28**] 12:51 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-28**] 12:00 AM
   Morphine Sulfate - [**2169-4-28**] 06:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-28**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.9
   HR: 117 (90 - 125) bpm
   BP: 100/64(71) {83/42(55) - 122/73(84)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.4 kg (admission): 72.8 kg
    Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  5,514 mL
                                                                    525 mL
   PO:
                                                                  1,980 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  3,234 mL
                                                                    285 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  1,075 mL
                                                                    280 mL
   Urine:
                                                                  1,075 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,439 mL
                                                                    245 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   Physical Examination
   Gen: Mild discomfort, but NAD
   HEENT: NC/AT, supple
   Pulm: CTAB no rales/rhonchi/wheezes
   CVS: Tachycardic
   ABD: moderate distension. +ttp RUQ/epigastric region.
   Ext: no c/c/e
   Labs / Radiology
   40 K/uL
   7.6 g/dL
   102 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.5 mEq/L
   17 mg/dL
   99 mEq/L
   127 mEq/L
   22.1 %
   7.0 K/uL
        [image002.jpg]
                             [**2169-4-26**]  05:16 AM
                             [**2169-4-26**]  01:20 PM
                             [**2169-4-26**]  03:04 PM
                             [**2169-4-27**]  02:44 AM
                             [**2169-4-27**]  01:56 PM
                             [**2169-4-28**]  02:41 AM
                             [**2169-4-28**]  05:21 AM
   WBC
   24.8
   10.4
   9.1
   9.3
   9.4
   7.0
   Hct
   39.0
   27.8
   26.3
   27.5
   28.0
   21.9
   22.1
   Plt
   59
   39
   43
   36
   32
   28
   40
   Cr
   1.0
   1.0
   0.9
   0.9
   1.0
   Glucose
   84
   94
   76
   106
   102
   Other labs: PT / PTT / INR:34.7/76.4/3.5,
   ALT / AST:27/76, Alk Phos / T Bili:87/3.9, Lactic Acid:3.2 mmol/L,
   Albumin:3.3 g/dL, LDH:161 IU/L,
   Differential-Neuts:65.4 %, Band:8.0 %, Lymph:23.2 %, Mono:10.3 %,
   Eos:0.7
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:1.1 mg/dL
   UA: 661 RBC, 100 protein, no WBC, no bacteria
   CT Abdomen:
   1. Cirrhosis and portal hypertension with moderate-to-large volume
   ascites
   and mild splenomegaly. No new focal concerning hepatic lesion.
   2. No evidence for mesenteric ischemia or obstruction. While there is
   apparent narrowing at the origin of celiac axis, the remainder of the
   celiac
   axis and mesenteric vasculature appears widely patent.
   3. Gallbladder distention has been present on priors with a few small
   gallbladder stones likely.
   4. Diffuse colonic wall thickening most likely reflects third spacing.
   Micro:
   Stool studies: pending, negative C.Diff x2
   Admission Blood cx: Beta strep Group B but repeat CX negative
   Peritoneal Fliud: Beta Strep Group B
   Assessment and Plan
 COAGULOPATHY
 BACTEREMIA
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 TACHYCARDIA, OTHER
 .H/O HEPATITIS, CHRONIC VIRAL
   49 y/o M HIV, HCV cirrhosis c/b ascites and crohn's disease, p/w
   abdominal pain, tachycardia with negative paracentesis.
   .
   # Bacteremia
 pan sensitive GBS
   - Ceftriaxone 2gm IV q 24 hours
   - d/c zosyn/vancomycin
   # Tachycardia: Likely multifactorial.  Would treat pain appropriately.
   Patient is likely intravascularly volume depleted and total body volume
   overloaded and anticipate HR may improve with IVF's & pain control.
   Given tachycardia must consider sepsis, but overall clinical picture
   more consistent with other more benign etiologies for his presentation.
   - patient received 100mg albumin
   - treat pain
   - f/u micro data (GPC in clusters/chains)
   - trend lactate
   - IVF boluses as needed
   - restart home metoprolol
   .
   # Abdominal Pain: Likely related to worsening ascites.  Potentially
   exacerbated GB wall edema.  Unlikely SBP, but gram stain pending.
   Given tachycardia, immunosuppression, elevated lactate consider empiric
   antibiotics for SBP. Transplant surgery consult initially with
   significant concern for cholecystitis.  HIDA scan overnight reportedly
   normal.  Re-eval of CT scan with concern for right sided colitis.
   - discontinue Vanco/Zosyn/Flagyl
   - Large Volume paracentesis on day of admission
   - serial exams
   - f/u liver recommendations
   .
   # Cirrhosis/HCV: Some worsening of LFT's since last evaluation.
   - daily MELD (MELD [**2169-4-27**] 29)
   - f/u liver consult with ? endoscopy
   - on transplant list
   .
   # Mild hypoxemia/cough/dyspnea: [**Month (only) 51**] be due to increased abdominal
   distenion.  Would consider infectious etiologies in this HIV + patient
   with recently low CD4 counts.
   - CXR
   - Paracentesis on [**4-26**] with 4L fluid removed
   - Check LDH
   - follow clinically, now 95% on RA with no respiratory distress
   .
   # HIV: Last CD4> 200
   - continue HAART
   .
   # Mild hyponatremia. Stable since yesterday.
   - Receiving NS, will get sodium phos.
   - Trend serum sodium
   .
   # Pain Control:
   - oxycodone, morphine
   .
   # Thrombocytopenia: Chronic and stable.
   - Trend
   .
   # Nausea: Zofran prn
   # Hypertension: home medications
   # Depression: home medications
   .
   # FEN: IVF, replete electrolytes, advance diet as tolerated (start with
   full liquids)
   # Prophylaxis: Pneumoboots
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Pt ready for call-out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-4-26**] 08:30 AM
   18 Gauge - [**2169-4-27**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-04-28 11:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   49 yo man with HCV cirrhosis, HIV, presents with abdominal pain.  Found
   to have SBP and bacteremia from GBS.
   24 Hour Events:
 BLOOD CULTURED - At [**2169-4-27**] 04:15 PM
   2 sets
 URINE CULTURE - At [**2169-4-27**] 04:15 PM
 STOOL CULTURE - At [**2169-4-27**] 08:50 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-4-28**] 07:55 AM
   Metronidazole - [**2169-4-28**] 09:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-4-28**] 10:15 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-4-28**] 09:30 AM
   Pantoprazole (Protonix) - [**2169-4-28**] 10:40 AM
   Other medications:
   HAART
   protonix
   lopressor morphine for bellow
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2169-4-28**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.9
C (100.2
   HR: 100 (100 - 131) bpm
   BP: 101/65(72) {91/42(55) - 128/69(79)} mmHg
   RR: 17 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.4 kg (admission): 72.8 kg
             Total In:
                                                                  5,514 mL
                                                                  1,334 mL
   PO:
                                                                  1,980 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  3,234 mL
                                                                    734 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  1,075 mL
                                                                    955 mL
   Urine:
                                                                  1,075 mL
                                                                    455 mL
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                  4,439 mL
                                                                    379 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : mild b/l crackles)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   40 K/uL
   102 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.5 mEq/L
   17 mg/dL
   99 mEq/L
   127 mEq/L
   22.1 %
   7.0 K/uL
        [image002.jpg]
                             [**2169-4-26**]  05:16 AM
                             [**2169-4-26**]  01:20 PM
                             [**2169-4-26**]  03:04 PM
                             [**2169-4-27**]  02:44 AM
                             [**2169-4-27**]  01:56 PM
                             [**2169-4-28**]  02:41 AM
                             [**2169-4-28**]  05:21 AM
   WBC
   24.8
   10.4
   9.1
   9.3
   9.4
   7.0
   Hct
   39.0
   27.8
   26.3
   27.5
   28.0
   21.9
   22.1
   Plt
   59
   39
   43
   36
   32
   28
   40
   Cr
   1.0
   1.0
   0.9
   0.9
   1.0
   Glucose
   84
   94
   76
   106
   102
   Other labs: PT / PTT / INR:34.7/76.4/3.5, ALT / AST:27/76, Alk Phos / T
   Bili:87/3.9, Differential-Neuts:65.4 %, Band:8.0 %, Lymph:23.2 %,
   Mono:10.3 %, Eos:0.7 %, Lactic Acid:3.2 mmol/L, Albumin:3.3 g/dL,
   LDH:161 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:1.1 mg/dL
   Microbiology: C. diff negative
   blood cx: GBS
   peritoneal fluid: GBS
   Assessment and Plan
 COAGULOPATHY
 BACTEREMIA
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 TACHYCARDIA, OTHER
 .H/O HEPATITIS, CHRONIC VIRAL:
   SBP/bacteremia:  continue CTX IV
   hypoxemia:  will get CXR and see if he is fluid overloaded versus
   atelectasis from abdominal distension.  Will give lasix as he was
   4L positive yesterday.
   anemia:  recheck Hct to ensure that its stable. Likely a combination of
   dilution and bleeding from paracentesis site.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-4-26**] 08:30 AM
   18 Gauge - [**2169-4-27**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2169-04-29 11:59:00 Physician Attending Progress Note
Chief Complaint: SBP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Febrile to 100.6 this AM
   Feels well - abd pain at paracentesis site still present but improved
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2169-4-28**] 11:47 AM
 STOOL CULTURE - At [**2169-4-29**] 05:11 AM
 BLOOD CULTURED - At [**2169-4-29**] 05:18 AM
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-4-28**] 07:55 AM
   Metronidazole - [**2169-4-28**] 09:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-4-28**] 10:15 AM
   Ceftriaxone - [**2169-4-28**] 12:54 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2169-4-28**] 06:25 PM
   Pantoprazole (Protonix) - [**2169-4-29**] 09:28 AM
   Morphine Sulfate - [**2169-4-29**] 10:08 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Gastrointestinal: Abdominal pain
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-4-29**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.7
   HR: 93 (93 - 124) bpm
   BP: 82/48(56) {82/47(56) - 112/78(84)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.4 kg (admission): 72.8 kg
             Total In:
                                                                  2,101 mL
                                                                    710 mL
   PO:
                                                                  1,320 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    781 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                    385 mL
   Urine:
                                                                  1,310 mL
                                                                    385 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                   -109 mL
                                                                    325 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   8.1 g/dL
   33 K/uL
   106 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.8 mEq/L
   17 mg/dL
   100 mEq/L
   129 mEq/L
   23.9 %
   6.6 K/uL
        [image002.jpg]
                             [**2169-4-26**]  05:16 AM
                             [**2169-4-26**]  01:20 PM
                             [**2169-4-26**]  03:04 PM
                             [**2169-4-27**]  02:44 AM
                             [**2169-4-27**]  01:56 PM
                             [**2169-4-28**]  02:41 AM
                             [**2169-4-28**]  05:21 AM
                             [**2169-4-28**]  03:01 PM
                             [**2169-4-29**]  03:47 AM
   WBC
   24.8
   10.4
   9.1
   9.3
   9.4
   7.0
   6.6
   Hct
   39.0
   27.8
   26.3
   27.5
   28.0
   21.9
   22.1
   24.4
   23.9
   Plt
   59
   39
   43
   36
   32
   28
   40
   33
   Cr
   1.0
   1.0
   0.9
   0.9
   1.0
   1.0
   Glucose
   84
   94
   76
   106
   102
   106
   Other labs: PT / PTT / INR:32.0/68.5/3.2, ALT / AST:24/61, Alk Phos / T
   Bili:99/5.0, Differential-Neuts:65.4 %, Band:8.0 %, Lymph:23.2 %,
   Mono:10.3 %, Eos:0.7 %, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL,
   LDH:161 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:1.0 mg/dL
   Imaging: CXR - plate-like LLL infiltrate
   Assessment and Plan
 HYPOXEMIA
 ALTERATION IN NUTRITION
 COAGULOPATHY
 BACTEREMIA
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 TACHYCARDIA, OTHER
 .H/O HEPATITIS, CHRONIC VIRAL
   49 yo man with HCV cirrhosis, HIV here with SBP due to GBS.
   SBP/bacteremia:  continue CTX.
   Hypoxemia: LLL infiltrate - could be atelectasis, no crackles on exam.
   Will hold off on treating for now, but will add vanco if fever curve
   starts to trend upward.
   Cirrhosis: Lasix/aldactone
   Anemia: Cont to follow.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-4-26**] 08:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: